US06034238
1j) tert-Butyl (S)-2-(1-adamantylmethyloxycarbonylamino)-3-amino-propionate
A solution of 8.7 g (19.22 mmol) of tert-butyl (S)-2-(1-adamantylmethyloxy-carbonylamino)-3-tert-butoxycarbonylamino-propionate in 180 ml of trifluoroacetic acid/dichloromethane (1:1) was added after 1 min to 1.5 l of ice-cold NaHCO3 solution, the mixture was extracted three times with dichloromethane and the combined dichloromethane phases were then dried over sodium sulfate. After filtration and removal of the solvent in vacuo, 6.35 g (94%) of the title compound were obtained as a colorless solid.

reactant | tert-butyl (S)-2-(1-adamantylmethyloxy-carbonylamino)-3-tert-butoxycarbonylamino-propionate | 19.22 mmol, 8.7 g | C12(CC3CC(CC(C1)C3)C2)COC(=O)N[C@H](C(=O)OC(C)(C)C)CNC(=O)OC(C)(C)C | C24H40N2O6
solvent | trifluoroacetic acid dichloromethane | 180 ml | FC(C(=O)O)(F)F.ClCCl
product | tert-Butyl (S)-2-(1-adamantylmethyloxycarbonylamino)-3-amino-propionate | 6.35 g, 94% | C12(CC3CC(CC(C1)C3)C2)COC(=O)N[C@H](C(=O)OC(C)(C)C)CN | C19H32N2O4
